US06307047B1
2-(3,4-Difluorophenyl)-4-ethoxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 178, starting with 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-(4-fluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone and substituting ethanol in place of 2-ethyl-1-hexanol (yield: 25 mg, 12%). mp 121-123° C. 1H NMR (300 MHz, DMSO-d6) δ 1.23 (t, J=7 Hz, 3H), 3.30 (s, 3H), 4.51 (q, J=7 Hz, 2H), 7.52 (m, 1H), 7.62 (m, 1H), 7.81 (m, 1H), 7.90 (d, J=9 Hz, 2H), 8.08 (d, J=9 Hz, 2H), 8.22 (s, 1H). MS (APCI+) m/z 407 (M+H)+; (APCI−) m/z 441 (M+Cl)−. Anal. calc. for C19H16F2N2O4S.0.25 H2O: C, 55.53; H, 4.04; N, 6.81. Found: C, 55.58; H, 4.21; N, 6.61.

reactant | 2-(3,4-difluorophenyl)-4-tosyloxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OS(=O)(=O)C1=CC=C(C)C=C1)C1=CC=C(C=C1)S(=O)(=O)C | C24H18F2N2O6S2
reactant | ethanol | C(C)O | C2H6O
solvent | H2O | O | H2O
product | 2-(3,4-Difluorophenyl)-4-ethoxy-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC)C1=CC=C(C=C1)S(=O)(=O)C | C19H16F2N2O4S
